US08076516B2
(S)-2-(3-Bromophenyl)oxirane was dissolved in 7N NH3/MeOH solution (5 mL) and aqueous NH4OH (25%, 5 mL) was added to the reaction mixture which was stirred at room temperature for 18 hrs. The reaction mixture was concentrated under reduced pressure to give (S)-2-amino-1-(3-bromophenyl)ethanol (0.801 g) which was used in the next step without purification.

reactant | (S)-2-(3-Bromophenyl)oxirane | BrC=1C=C(C=CC1)[C@@H]1OC1 | C8H7BrO
reactant | NH4OH | 5 mL | [NH4+].[OH-]
solvent | NH3 MeOH | 7N, 5 mL | N.CO
product | (S)-2-amino-1-(3-bromophenyl)ethanol | 0.801 g | NC[C@@H](O)C1=CC(=CC=C1)Br | C8H10BrNO
